US08212041B2
4-((6-(3-chloro-4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline
HATU (0.370 g, 0.974 mmol) and 2-chloro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)benzoic acid (0.300 g, 0.650 mmol) were taken up in DMF (5 mL). Added Hunig's Base (0.339 ml, 1.95 mmol). Stirred for 10 min. Added (Z)-N′-hydroxyacetamidine (0.289 g, 3.90 mmol). Stirred for an additional 30 min. Removed DMF in vacuo. Suspended in water. Isolated product by filtration. The resulting solid was allowed to try under vacuum. Split into 3 portions and separately took up in dioxane (4 mL) in a microwave tube and heated for 12 min at 150° C. Combined all 3 reactions. Concentrated. Purified on RPHPLC. Took fractions containing product and made basic with 9% sodium carbonate. Removed volatiles in vacuo. Product crashed out and was isolated by filtration. MS m/z=500.0 [M+1]+. Calc'd for C25H18ClN7O3: 499.1.

reactant | HATU | 0.974 mmol, 0.370 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-chloro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)benzoic acid | 0.650 mmol, 0.300 g | ClC1=C(C(=O)O)C=CC(=C1)C=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C23H16ClN5O4
reactant | Hunig's Base | 1.95 mmol, 0.339 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (Z)-N′-hydroxyacetamidine | 3.90 mmol, 0.289 g | O\N=C(\C)/N | C2H6N2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-((6-(3-chloro-4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline | ClC=1C=C(C=CC1C1=NC(=NO1)C)C=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C25H18ClN7O3
